US07071216B2
The mixture containing 5-methoxybenzoxazole-2-thiol was heated in thionyl chloride with a drop of DMF. The resultant mixture was concentrated and partitioned between ethyl acetate and water. The organic layer was washed with brine and dried and concentrated. Purification on a silica gel column gave 2-chloro-5-methoxybenzoxazole as a white solid. MS: MH+=184.

reactant | 5-methoxybenzoxazole-2-thiol | COC=1C=CC2=C(N=C(O2)S)C1 | C8H7NO2S
reactant | DMF | CN(C)C=O | C3H7NO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-chloro-5-methoxybenzoxazole | ClC=1OC2=C(N1)C=C(C=C2)OC | C8H6ClNO2
